US07576215B2
N,N-DIBENZYL-3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]ANILINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and benzaldehyde according to the procedure of Example 66. MS (ESI) m/z 559.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | N,N-DIBENZYL-3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]ANILINE | C(C1=CC=CC=C1)N(C1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)CC1=CC=CC=C1)CC1=CC=CC=C1 | C37H29F3N2
